Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
hypoxic respiratory failure
 
Major Surgical or Invasive Procedure:
CVL insertion
Mechanical Intubation
Bronchoscopy with BAL
OG tube insertion
Renal replacement therapy
 
History of Present Illness:
___ yo M with mixed connective tissue/vasculitis with history of 
pulmonary hemorrhage and lupus nephritis currently being 
treating with prednisone and cytoxan who presented to OSH 
complaining of ___ days of worsening SOB.  Per report, the 
patient had no recent fevers, wheezing, coughing, chest pain or 
nausea but did complain of worsening ___ edema.  In the ED there 
he was hypoxic to 76% on RA, RR37, HR 130s, BP 94/65.  He was 
placed on NRP and O2 Sat improved to 88% but he continued to 
appear cyanotic.  He was emergently intubated and intial ABG 
following intubation was 7.34/32.6/48.6. He was given 80 IV 
lasix, hydrocortisone 100, phenylephrine 50 mg IV push x 2, 
ketamine 100 mg IV, Succinylcholine 150 IV, and vecuronium 10 mg 
IV.  He was transferred to ___, where he receives the majority 
of his care. 
.  
On arrival to the ___ ED, the patient's intial vitals were HR 
132, BP 109/67, RR 22, SaO2 98%.  Initial ABG on 100% FiO2 was 
___.  Labs were notable for WBC of 19.9 with a left 
shift (11% bands), Hct 31.1 (range in OMR ___, Cr of 2.5 from 
baseline 1.0, and lactate 1.0. Blood and urine cultures were 
sent, and he was given 2L NS, vanco 1 g IV, zosyn 4.5 mg IV.  He 
was initially started on propofol drip but then changed to 
fentanyl/versed drip. CXR showed multifocal bilateral pulmonary 
infiltrates, and ventilator settings changed to ardsnet protocol 
and admitted to the MICU for further management.
.
On arrival to the MICU, patient was hypotensive to ___, HR 
120-130s, SaO2 92%, and appeared dyssynchronous with the 
ventilor.  He was started on peripheral neosynephrine and 
paralyzed with vecuronium.  
.
Notably, patient had a recent ___ admission for hemoptysis 
(___).  During that admission, he had a cavitaory LUL 
lesion for which extensive testing failed to identify specific 
diagnosis.  During that admission, he had a CT scan, was ruled 
out for TB with multiple sputum tests and serologic sputum 
testing for Nocardia histo, coccidioidomycosis, aspergillosis 
were all negative. He did have an "indeterminate" quantiferon 
test at that time, of unclear signfificance, and has several AFB 
cultures still pending currently (from ___.  ANCA 
testing was negative and lung biopsy was considered and 
discussed but not done. 
 
Past Medical History:
- Mixed connective tissue//vasculitis: Characterized by 
fluctuating  
lymph nodes, Raynaud's phenomenon, skin ulcerations, neuropathy, 
 
arthralgias, alopecia, and prior history of thrombocytopenia, 
hemolytic anemia
- History of chronic inflammatory demyelinating polyneuropathy,  

status post four plasmapheresis sessions in ___.  
- Bilateral hip avascular necrosis in the setting of steroid  
therapy, status post bilateral hip replacements.  
-Hypertension 
-Hypogonadism
-IV-G V lupus nephritis and class V membranous nephritis with 
renal impairment, high-grade proteinuria and nephrosis -- 
currently receiving cytoxan/mesna monthly, has received 5 
cycles, last dose ___
-cavitary LUL lesion with extensive ID workup neg except for 
indeterminate quantiferon test

 
Social History:
___
Family History:
His sister also has an undiagnosed autoimmune condition, 
currently in remission. He denies any history of diabetes, 
hypertension, or kidney disease in the family.  
 
Physical Exam:
General Appearance: Pale, ill-appearing
Eyes / Conjunctiva: PERRL
Head, Ears, Nose, Throat: Endotracheal tube, alopecia
Cardiovascular: tachycardic and regular, no murmur appreciated
Peripheral Vascular: (Right radial pulse: Diminished), (Left 
radial pulse: Diminished), (Right DP pulse: Diminished), (Left 
DP pulse: Diminished)
Respiratory / Chest: (Breath Sounds: No(t) Rhonchorous: ), 
coarse and rhonchorus lying flat, improved upright
Abdominal: Soft, Distended, hypoactive BS
Extremities: Right lower extremity edema: 2+, Left lower 
extremity edema: 2+, Cyanosis
Skin:  Cool, multiple deep, prurlent ulcers on ___ b/l
Neurologic: Responds to: Not assessed, Movement: Not assessed, 
Sedated, Paralyzed, Tone: Not assessed
 
Pertinent Results:
CT head:
1. Hemorrhagic transformation of the previously seen right MCA 
and PCA territorial infarct with significant mass effect causing 
uncal and subfalcine herniation.  
2. New right thalamic infarct. 
3. Mass effect effacement of ipsilateral right lateral 
ventricles with trapping of the left lateral ventricles. 

___ 9:52 am SPUTUM     Site: ENDOTRACHEAL
      Source: Endotracheal. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      >25 PMNs and <10 epithelial cells/100X field. 
      NO MICROORGANISMS SEEN. 

   RESPIRATORY CULTURE (Final ___: 
      RARE GROWTH Commensal Respiratory Flora. 
      ASPERGILLUS FUMIGATUS.    RARE GROWTH. 
         IDENTIFICATION PERFORMED ON CULTURE # ___ 
___. 
      YEAST.    RARE GROWTH. 
      CUNNINGHAMELLA SP.. 
         IDENTIFICATION PERFORMED ON CULTURE # ___ 
___. 

 
Brief Hospital Course:
___ yo M with history of vasculitis including prior pulmonary 
hemorrhage and lupus nephritis being treated with prednisone and 
cytoxan who presented to ___ on ___ with hypoxic 
respiratory failure and shock.
.
# Hypoxic Respiratory failure: The differential diagnosis for 
acute respiratory failure in this significantly 
immunocompromised patient included bacterial infection, 
fungal/PCP infection, pulmonary hemorrhage, cytoxan-induced 
pneumonitis.  ID, Rheum, and Nephrology were consulted.  The 
patient was intubated and had an esophageal balloon for 
transplerual pressure monitoring placed.  Rheum thought that a 
vasculitic process was unlikely given that the patient was on 
cytoxan and prednisone as an outpatient and there was no benefit 
from plasmapheresis.  He was treated with pulse steroids for 4 
days, then tapered back to a standing dose of prednisone, which 
was later discontinued.  Renal initiated CVVH given the 
patient's ___ and tenuous clinical picture, and this was later 
discontinued as his renal function improved.  Per ID, the 
patient was initially started on vancomycin, meropenem, IV 
bactrim, ambisome, and ciprofloxacin.  Cultures and studies to 
look for CMV, crypto, PCP, ___, and fungi were sent.  A 
sputum culture grew back yeast and mold - later identified as 
zygomycetes/cunninghamella and aspergillus.
.
# Stroke:  As Mr. ___ was weaned from sedation, it was 
noted that his mental status did not improve as expected.  Head 
CT showed a large right MCA and PCA stroke, which was later 
better characterized with MRI.  Stroke team was consulted and 
provided prognostic information to the family regarding the 
deficits Mr. ___ could expect if he recovered from his 
acute illness.  On ___, he was noted to have a blown pupil, 
and repeat head CT showed hemorrhagic conversion of the stroke 
with uncal and subfalcine herniation.
.
# Tachycardia/Hypertension - This was thought to be in part from 
benzo withdrawal and also from heart failure.  An echo obtained 
on admission showed an EF of ___ with moderate to severe MR.  
___ patient was diuresed with CVVH as above with improvement in 
his hypoxia.  However, he remained tachycardic and hypertensive. 
 His benzo withdrawal was treated as above, and he was given 
some fluid back.  
.
# Hct drop: Most concerning for pulmonary hemorrhage in setting 
of known vasculatis with significant lung lesion.  No indication 
of GI bleed or other source of blood loss, although dilution 
could certainly  be contributing to decreased counts.  
Stabilized.
.
# Acute on chronic renal failure - The patient's creatinine on 
admission was 2.5, up from a baseline of 1.0.  He was started on 
CVVH, which was stopped after 4 days.  His urine output 
significantly improved after he was stabilized.  
.
# Goals of care:  Multiple family meetings were held with the 
family and with the primary MICU team as well as consultants 
from ID, Rheum, and Stroke.  The family was clear that Mr. 
___ would not have wanted invasive measures to prolong his 
life without meaningful hope of recovery, and decided to move to 
DNR/CMO.  He was terminally extubated on ___, and passed 
away shortly thereafter in the presence of his family.  His son, 
the next of kin, was notified, and requested an autopsy.
 
Medications on Admission:
alendronate
clotrimazole
cyclophosphamide
furosemide
mesna
mvi w/ caffeine
nifedpine
ondansetron
prednisone
bactrim
testosterone
 
Discharge Medications:
N/A
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
1. Respiratory failure
2. Invasive fungal infection
3. Brain herniation

 
Discharge Condition:
Deceased.

 
Discharge Instructions:
-
 
Followup Instructions:
___